US07459472B2
3-(4′-Trifluoromethyl-biphenyl-4-yl)-2-[4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoylamino]-propionic acid methyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoic acid (283 mg, 1.0 mmol) and 2-amino-3-(4′-trifluoromethyl-biphenyl-4-yl)-propionic acid methyl ester (360 mg, 1.0 mmol) following general procedure A. (580 mg) 1H-NMR(400 MHz, CD3COCD3): 3.24 (dd, 1H), 3.39 (dd, 1H), 3.74 (s, 3H), 4.98 (m, 1H), 6.64 (d, 1H), 7.50 (m, 2H), 7.60 (m, 2H), 7.69 (m, 3H), 7.78 (d, 2H), 7.88 (d, 2H), 7.98(m, 2H), 8.15 (m, 2H); LC/MS (m/z): 589 (M+1)+.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoic acid | 1.0 mmol, 283 mg | FC(C=1C=CC(=NC1)OC1=CC=C(C(=O)O)C=C1)(F)F | C13H8F3NO3
reactant | 2-amino-3-(4′-trifluoromethyl-biphenyl-4-yl)-propionic acid methyl ester | 1.0 mmol, 360 mg | COC(C(CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)N)=O | C17H16F3NO2
product | 3-(4′-Trifluoromethyl-biphenyl-4-yl)-2-[4-(5-trifluoromethyl-pyridin-2-yloxy)-benzoylamino]-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC(C1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O)=O | C30H22F6N2O4
